US07897597B2
A modification of the general method described in Part B of Example 3 was followed using tert-butyl {4-[7-benzyloxy-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}carbamate (9.08 g, 17.9 mmol) in lieu of 7-benzyloxy-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline. Over a period of 28 hours, three equivalents of mCPBA were added. Following the work-up procedure, 8.07 g of tert-butyl {4-[7-benzyloxy-2-(2-methoxyethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]butyl}carbamate were obtained.

reactant | tert-butyl {4-[7-benzyloxy-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}carbamate | 17.9 mmol, 9.08 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCNC(OC(C)(C)C)=O)CCOC | C29H36N4O4
reactant | 7-benzyloxy-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)C | C22H23N3O
reactant | mCPBA | three equivalents | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | tert-butyl {4-[7-benzyloxy-2-(2-methoxyethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]butyl}carbamate | 8.07 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=[N+](C2C1)[O-])N=C(N3CCCCNC(OC(C)(C)C)=O)CCOC | C29H36N4O5
